US04513124
A. Preparation of Methacrylamide/Monol Adduct
Into a one-liter, 3-neck flask equipped with a reflux condenser, a pressure equalizing addition funnel and a magnetic stirrer are charged 200 g (0.07 mole) of Monol I, 22 g (0.28 mole) of pyridine and 200 ml of anhydrous diethyl ether. Under a static nitrogen purge with cooling to ~2° C., 14.4 g of toluene sulfonyl chloride dissolved in 25 ml of diethyl ether is added with stirring over a period of one half of an hour. The reaction mixture is allowed to warm to room temperature and stirred for 12 hours. Thereafter, the diethyl ether is removed under reduced pressure at temperatures less than 40° C. The reaction mixture is filtered to remove pyridine hydrochloride and then charged into a one-liter, 3-neck flask equipped with a reflux condenser, gas sparge addition tube and a magnetic stirrer. To this flask is added with stirring 200 ml of dichloromethane and anhydrous ammonia is sparged through the reaction mixture for 11/2 hours followed by sparging with nitrogen for 2 hours. The reaction mixture is filtered and then subjected to reduced pressure to remove dichloromethane. Into the aforementioned flask are added the reaction product, 200 ml of dichloromethane and 7.0 g (0.07 mole) of triethylamine. To the resulting solution is added with stirring and refluxing, 7.9 g (0.075 mole) of methacryloyl chloride diluted in 25 ml of dichloromethane over a period of 30 minutes and stirred overnight. The resulting product is cooled and subjected to reduced pressure to remove dichloromethane. To this product is added 200 ml of diethyl ether, then filtered and subjected to reduced pressure to remove diethyl ether thereby providing the aforementioned desired adduct.

reactant | Monol | 0.07 mole, 200 g | C[C@H](CCCO)[C@H]1CC[C@]2([C@H]1CC[C@@]3([C@@H]2CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(CCCC5(C)C)C)C)C)C | C32H56O
reactant | pyridine | 0.28 mole, 22 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.07 mole, 7.0 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.075 mole, 7.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | Methacrylamide Monol | C(C(=C)C)(=O)N.C[C@H](CCCO)[C@H]1CC[C@]2([C@H]1CC[C@@]3([C@@H]2CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(CCCC5(C)C)C)C)C)C | InChI=1S/C32H56O.C4H7NO/c1-22(10-8-21-33)23-13-18-29(4)24(23)14-19-31(6)26(29)11-12-27-30(5)17-9-16-28(2,3)25(30)15-20-32(27,31)7;1-3(2)4(5)6/h22-27,33H,8-21H2,1-7H3;1H2,2H3,(H2,5,6)/t22-,23-,24+,25+,26-,27-,29+,30+,31-,32-;/m1./s1
